US05434292
5.6 g of 1-[3-chloro-4-(2,2-ethylenedioxycyclohexane-1-yl methyl)phenyl]ethyl bromide were dissolved in 50 ml of tetrahydrofuran and added dropwise over one hour to 0.55 g of magnesium suspended in 10 ml of tetrahydrofuran, after which the whole was refluxed under agitation for three hours and cooled to produce a Grignard's reagent. The Grignard's reagent so produced was poured onto an excessive amount of solid carbon dioxide and allowed to stand still for 4 hours, after which the whole was acidified with diluted hydrochloric acid and extracted with 100 ml of ether. The extract obtained was concentrated to obtain a residue which was then incorporated with 25 ml of acetic acid and 10 ml of water and refluxed under agitation for two hours. After the end of the reaction, the reaction mixture was incorporated with 100 ml of water and extracted with 50 ml of ether. The extract obtained was washed with water, dried and freed of the solvent to obtain a residue which was then recrystallized from isopropyl ether thereby to obtain 2.7 g (yield 61%) of 2-[3-chloro-4-(2-oxocyclohexane-1-yl methyl)phenyl] propionic acid.

reactant | 1-[3-chloro-4-(2,2-ethylenedioxycyclohexane-1-yl methyl)phenyl]ethyl bromide | 5.6 g | ClC=1C=C(C=CC1CC1C2(CCCC1)OCCO2)C(C)Br | C17H22BrClO2
reactant | magnesium | [Mg] | Mg
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 2-[3-chloro-4-(2-oxocyclohexane-1-yl methyl)phenyl] propionic acid | 2.7 g, yield 61% | ClC=1C=C(C=CC1CC1C(CCCC1)=O)C(C(=O)O)C | C16H19ClO3
